US04830660
(1) Synthesis of 5-amino-4-ethoxycarbonyl-1-(2-pyridyl)imidazole
In 230 ml of acetonitrile, 8.5 g of ethyl α-aminocyanoacetate, 10.8 g of ethyl orthoformate and 6.2 g of 2-aminopyridine were heated under reflux for 1.5 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and crystals precipitated were filtered off and washed with benzene to give 11.0 g of the desired compound. m.p.: 129° to 131° C.

reactant | ethyl α-aminocyanoacetate | 8.5 g | NC(C(=O)OCC)C#N | C5H8N2O2
reactant | ethyl orthoformate | 10.8 g | C(OCC)([O-])[O-]
reactant | 2-aminopyridine | 6.2 g | NC1=NC=CC=C1 | C5H6N2
solvent | acetonitrile | 230 ml | C(C)#N | C2H3N
product | 5-amino-4-ethoxycarbonyl-1-(2-pyridyl)imidazole | 11.0 g | NC1=C(N=CN1C1=NC=CC=C1)C(=O)OCC | C11H12N4O2
